US04539406
(a) 2,6-Di-t-butyl-4-methylphenoxydimethylchlorosilane
A mixture of 2,6-di-t-butyl-4-methylphenol (110 g, 0.5M), acetonitrile (500 ml), triethylamine (70 ml, 0.5M) and dichlorodimethylsilane (61 ml, 0.5M) was refluxed for 16 hours. The solvent was evaporated and the residue extracted with toluene (500 ml). The toluene extract was evaporated and the residue recrystallised from acetonitrile to give the title compound (90 g, 57%) m.p. 119°-121° (Found: C,65 65; H,9.4%. C17H29ClOSi requires C,65.2; H,9.3%).

reactant | 2,6-di-t-butyl-4-methylphenol | 0.5M, 110 g | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | acetonitrile | 500 ml | C(C)#N | C2H3N
reactant | dichlorodimethylsilane | 0.5M, 61 ml | Cl[Si](C)(C)Cl | C2H6Cl2Si
solvent | triethylamine | 0.5M, 70 ml | C(C)N(CC)CC | C6H15N
product | 2,6-Di-t-butyl-4-methylphenoxydimethylchlorosilane | 90 g | C(C)(C)(C)C1=C(O[Si](Cl)(C)C)C(=CC(=C1)C)C(C)(C)C | C17H29ClOSi
